* Modified by Hui Wu, 2023-04-17
* OPA1656
*****************************************************************************
* (C) Copyright 2022 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: OPA1656
* Date: 25AUG2022
* Model Type: Generic (suitable for all analysis types)
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS901B - MARCH 2019 - REVISED DECEMBER 2021
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
*
* Model Version: Final 1.3
*
*****************************************************************************
*
* Updates:
*
* Final 1.3
* 1. Moved R_NOISELESS .model inside OPA1656 subckt.
* 2. Updated PSpice Symbol.
*
* Final 1.2
* 1. Updated the current direction(i.e. IOUT- IOUT+) of IQ_SRC block to 
*    resolve Iout current direction issue.
* 2. Added R_DIFF element in the model.
*
* Final 1.1
* 1. Modified the capacitor(C14) value from 1F to 1uF in GND Float-IQ block  
*    to resolve the convergence issue in single and asymmetric supply test.
* 2. Updated the following parameters:
*    a. Input bias current 
*    b. Input offset current 
*    c. Quiescent current
*    d. Vos drift 
*    e. Current Noise 
*    f. Voltage Noise 
*    g. CLAW curve 
*    h. Short Circuit Current
*    i. Vcm
*    j. Slew Rate 
*    k. CMRR
*    l. PSRRp and PSRRn
*    m. Aol at higher frequency
*    n. Overload Recovery
*
* Final 1.0 
* Release to Web.
*
*****************************************************************************
* Model Usage Notes:
* 1. The following parameters are modeled: 
*    a. OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
*    b. UNITY GAIN BANDWIDTH (GBW)
*    c. INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
*    d. POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
*    e. DIFFERENTIAL INPUT IMPEDANCE (Zid)
*    f. COMMON-MODE INPUT IMPEDANCE (Zic)
*    g. OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
*    h. OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
*    i. INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
*    j. INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
*    k. OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
*    l. SHORT-CIRCUIT OUTPUT CURRENT (Isc)
*    m. QUIESCENT CURRENT (Iq)
*    n. SETTLING TIME VS. CAPACITIVE LOAD (ts)
*    o. SLEW RATE (SR)
*    p. SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
*    q. LARGE SIGNAL RESPONSE
*    r. OVERLOAD RECOVERY TIME (tor)
*    s. INPUT BIAS CURRENT (Ib)
*    t. INPUT OFFSET CURRENT (Ios)
*    u. INPUT OFFSET VOLTAGE (Vos)
*    v. INPUT OFFSET VOLTAGE VS. TEMPERATURE (Vos Drift)
*    w. INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
*    x. INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
*    y. INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
* 2. There should be two separate instances of OPA1656 to accurately
*    match the product of OPA1656.
*****************************************************************************
.SUBCKT OPA1656 IN+ IN- VCC VEE OUT  
*****************************************************************************
C_C1          N24458 N24659  13.84N   
C_C10         N37029 N37037  796N   
C_C11         MID N39473  10.6P   
C_C12         N39884 N39892  31.8F   
C_C13         0 N2425309  1F   
C_C14         0 N2425287  1U   
C_C15         0 N2425325  1F   
C_C16         MID N56849  1F   
C_C17         MID N57325  1F   
C_C18         MID N59747  1F   
C_C19         MID N59865  1F   
C_C2          N25921 N25929  48.23P   
C_C20         MID N65579  1F   
C_C21         MID N65697  1F   
C_C22         MID N68774  1F   
C_C23         N72398 MID  1F   
C_C24         MID N72391  1F   
C_C25         MID N81574  1P   
C_C26         MID N81664  1P   
C_C27         MID SW_OL_OPA1656  2.5N   
C_C28         VCLP MID  1P   
C_C29         VIMON MID  1P   
C_C3          N27785 N27793  2.341P   
C_C30         VOUT_S MID  1P   
C_C31         N2402147 N2402155  9.764P   
C_C33         N2707598 N2707608  3.537F   
C_C34         MID N2516408  1.59P   
C_C38         MID N2526910  2.6F   
C_C39         MID N36262  2.6F   
C_C4          N32347 MID  1F   
C_C41         MID N2532013  4.24P   
C_C42         N2549447 N2549439  15.92F   
C_C5          CLAMP MID  184N   
C_C_COM0      ESDP MID  1.9P   
C_C_COM1      MID ESDN  1.9P   
C_C_DIFF      ESDN ESDP  9.1P   
E_E1          MID 0 N2425287 0 1
E_E2          N158495 MID CL_CLAMP MID 1
E_E3          N161937 MID OUT MID 1
G_G1          N24458 MID ESDP MID -5.475M
G_G12         CLAW_CLAMP MID N36262 MID -1M
G_G13         CL_CLAMP MID CLAW_CLAMP MID -1M
G_G15         N37029 MID CL_CLAMP N45999 -90.6
G_G16         N39124 MID N37037 MID -700
G_G17         N39920 MID N39417 MID -1
G_G18         VCC_B 0 VCC 0 -1
G_G19         VEE_B 0 VEE 0 -1
G_G2          N25415 N25397 N25248 MID -1M
G_G20         VCC_CLP MID N72398 MID -1M
G_G21         VEE_CLP MID N72391 MID -1M
G_G22         N1356345 MID N1356333 MID -1
G_G23         N1356409 MID N1356429 MID -1
G_G24         N2402147 MID N24659 MID -1
G_G25         N25248 MID N2402155 MID -4.908
G_G27         N2707598 MID N2531921 MID -6.889
G_G28         N39884 MID N2516366 MID -1
G_G3          N25921 MID VEE_B MID -317.7M
G_G4          N27785 MID VCC_B MID -5.897M
G_G46         N2526910 MID N2707608 MID -1U
G_G47         N36262 MID N2526910 MID -1U
G_G49         N2531913 MID VSENSE MID -1
G_G5          N28678 N28438 N28311 N25929 -1M
G_G50         N2549447 MID N27793 MID -1
G_G51         N28311 MID N2549439 MID -60
G_G6          VSENSE MID CLAMP MID -1M
I_I_B         N24207 MID DC 15P  
I_I_OS        ESDN MID DC -5P  
I_I_Q         VCC VEE DC 3.9M  
R_R1          IN+ ESDP R_NOISELESS 20
R_R10         MID N25921 R_NOISELESS 1
R_R11         MID N25929 R_NOISELESS 220
R_R119        MID N2526910 R_NOISELESS 1MEG
R_R12         N27793 N27785 R_NOISELESS 100MEG
R_R120        MID N36262 R_NOISELESS 1MEG
R_R122        MID N39920 R_NOISELESS 1
R_R123        N2531921 N2531913 R_NOISELESS 16.4K
R_R124        N2532013 N2531921 R_NOISELESS 10K
R_R125        MID N2531913 R_NOISELESS 1
R_R126        N2549439 N2549447 R_NOISELESS 100MEG
R_R127        MID N2549439 R_NOISELESS 1.695MEG
R_R128        MID N2549447 R_NOISELESS 1
R_R129        MID N28311 R_NOISELESS 1
R_R13         MID N27785 R_NOISELESS 1
R_R14         MID N27793 R_NOISELESS 11.33K
R_R15         N28438 N25415 R_NOISELESS 1M
R_R16         N28678 N28438 R_NOISELESS 1K
R_R17         N31303 ESDN R_NOISELESS 1M
R_R18         MID N31389 R_NOISELESS 1T
R_R19         MID N31737 R_NOISELESS 1T
R_R2          IN- ESDN R_NOISELESS 20
R_R20         N32236 MID R_NOISELESS 1
R_R21         N32347 N32236 R_NOISELESS 1M
R_R22         MID N32510 R_NOISELESS 1MEG
R_R23         MID CLAMP R_NOISELESS 1MEG
R_R24         MID VSENSE R_NOISELESS 1K
R_R3          ESDP MID R_NOISELESS 1T
R_R32         MID CLAW_CLAMP R_NOISELESS 1K
R_R33         MID CL_CLAMP R_NOISELESS 1K
R_R34         N37037 N37029 R_NOISELESS 100K
R_R35         MID N37029 R_NOISELESS 1
R_R36         MID N37037 R_NOISELESS 143
R_R37         MID N39124 R_NOISELESS 1
R_R38         N39417 N39124 R_NOISELESS 740K
R_R39         N39473 N39417 R_NOISELESS 10K
R_R4          MID ESDN R_NOISELESS 1T
R_R40         N39892 N39884 R_NOISELESS 10K
R_R41         MID N39884 R_NOISELESS 1
R_R42         MID N39892 R_NOISELESS 101
R_R43         MID N46041 R_NOISELESS 1
R_R46         VCC_B 0 R_NOISELESS 1
R_R47         VCC_B N2425309 R_NOISELESS 1M
R_R48         N2425309 N2425287 R_NOISELESS 1MEG
R_R49         N2425287 0 R_NOISELESS 1T
R_R5          MID N24458 R_NOISELESS 1
R_R50         N2425287 N2425325 R_NOISELESS 1MEG
R_R51         N2425325 VEE_B R_NOISELESS 1M
R_R52         VEE_B 0 R_NOISELESS 1
R_R53         VCC_CLP MID R_NOISELESS 1T
R_R54         N55560 MID R_NOISELESS 1
R_R55         N56849 N55560 R_NOISELESS 1M
R_R56         VEE_CLP MID R_NOISELESS 1T
R_R57         N57321 MID R_NOISELESS 1
R_R58         N57325 N57321 R_NOISELESS 1M
R_R59         N59739 MID R_NOISELESS 1T
R_R6          N24659 N24458 R_NOISELESS 10K
R_R60         N59743 MID R_NOISELESS 1
R_R61         N59747 N59743 R_NOISELESS 1M
R_R62         N59865 N59881 R_NOISELESS 1M
R_R63         N59905 MID R_NOISELESS 1T
R_R64         N59881 MID R_NOISELESS 1
R_R65         N65567 MID R_NOISELESS 1T
R_R66         N65575 MID R_NOISELESS 1
R_R67         N65579 N65575 R_NOISELESS 1M
R_R68         N65697 N65713 R_NOISELESS 1M
R_R69         N65737 MID R_NOISELESS 1T
R_R7          MID N24659 R_NOISELESS 1.643
R_R70         N65713 MID R_NOISELESS 1
R_R71         N68774 VSENSE R_NOISELESS 1M
R_R72         VCC_B N72064 R_NOISELESS 1K
R_R73         N72064 N72398 R_NOISELESS 1M
R_R74         N72073 VEE_B R_NOISELESS 1K
R_R75         N72073 N72391 R_NOISELESS 1M
R_R76         MID VCC_CLP R_NOISELESS 1K
R_R77         VEE_CLP MID R_NOISELESS 1K
R_R78         N1356409 MID R_NOISELESS 1
R_R79         N1356345 MID R_NOISELESS 1
R_R8          N25415 N25397 R_NOISELESS 1K
R_R80         V11 N81574 R_NOISELESS 100
R_R81         V12 N81664 R_NOISELESS 100
R_R82         N81756 MID R_NOISELESS 1
R_R83         N81756 SW_OL_OPA1656 R_NOISELESS 100
R_R84         N158495 VCLP R_NOISELESS 100
R_R85         N2402155 N2402147 R_NOISELESS 10K
R_R86         MID N2402147 R_NOISELESS 1
R_R87         MID N2402155 R_NOISELESS 2.559K
R_R88         MID N25248 R_NOISELESS 1
R_R9          N25929 N25921 R_NOISELESS 100MEG
R_R90         N2707608 N2707598 R_NOISELESS 1MEG
R_R91         MID N2707598 R_NOISELESS 1
R_R92         MID N2707608 R_NOISELESS 169.8K
R_R93         N2516366 N39920 R_NOISELESS 667
R_R94         N2516408 N2516366 R_NOISELESS 1K
R_RDUMMY      MID N45999 R_NOISELESS 3.15K
R_RX          N45999 N46041 R_NOISELESS 31.5K
R_RX1         MID N161737 R_NOISELESS 1T
R_RX2         VIMON N161737 R_NOISELESS 100
R_RX3         MID N161937 R_NOISELESS 1T
R_RX4         VOUT_S N161937 R_NOISELESS 100
R_R_DIFF      ESDN ESDP R_NOISELESS 100MEG
V_VCM_MAX     N31389 VCC_B -2.25
V_VCM_MIN     N31737 VEE_B 0
V_V_GRN       N65737 MID -83
V_V_GRP       N65567 MID 75
V_V_ISCN      N59905 MID -98.82
V_V_ISCP      N59739 MID 89.10
V_V_ORN       N1356333 VCLP -0.52
V_V_ORP       N1356429 VCLP 0.28
X_H1          N45999 OUT N161737 MID BLOCK_DC_H1_OPA1656 
X_H2          N1356115 N1356409 V12 MID BLOCK_DC_H2_OPA1656 
X_H3          N1356061 N1356345 V11 MID BLOCK_DC_H3_OPA1656 
X_S1          N1356061 CLAMP N1356061 CLAMP BLOCK_DC_S1_OPA1656 
X_S2          CLAMP N1356115 CLAMP N1356115 BLOCK_DC_S2_OPA1656 
X_U1          ESDP N24207 VNSE_OPA1656 (FLW=10 GLF=0.0565  RNV=9.617)
X_U10         VCC_CLP VEE_CLP VOUT_S MID N55560 N57321 CLAMP_AMP_LO_OPA1656
+  G=1
X_U11         N59739 N59905 VIMON MID N59743 N59881 CLAMP_AMP_LO_OPA1656
+  G=1
X_U12         N65567 N65737 N68774 MID N65575 N65713 CLAMP_AMP_HI_OPA1656
+  G=10
X_U16         MID N81756 N81574 N81664 OL_SENSE_OPA1656
X_U18         VIMON MID N72064 VCC_B CLAWP_OPA1656
X_U19         MID VIMON VEE_B N72073 CLAWN_OPA1656
X_U20         ESDN ESDP ESD_BB_OPA1656
X_U21         OUT VCC VEE ESD_OUT_OPA1656
X_U22         N59747 N59865 CL_CLAMP MID CL_SRC_OPA1656 GAIN=1
+  IPOS=0.3E1 INEG=-0.332E1
X_U23         N65579 N65697 CLAMP MID GR_SRC_OPA1656 GAIN=1
+  IPOS=11.0104E1 INEG=-11.0104E1
X_U25         SW_OL_OPA1656 MID N37029 N37037 SW_OL_OPA1656
X_U26         VIMON MID MID VCC IQ_SRC_OPA1656 GAIN=1E-3
X_U27         MID VIMON VEE MID IQ_SRC_OPA1656 GAIN=1E-3
X_U30         N32347 N31303 MID N32510 AOL_1_OPA1656 GAIN=1E-4 IPOS=.5
+  INEG=-.5
X_U31         N32510 MID MID CLAMP AOL_2_OPA1656 GAIN=6.5E-1 IPOS=6.16
+  INEG=-6.16
X_U32         N39892 MID MID N46041 ZO_SRC_OPA1656 GAIN=1E2 IPOS=6E5
+  INEG=-6.5E5
X_U35         N56849 N57325 CLAW_CLAMP MID CLAW_SRC_OPA1656 GAIN=1
+  IPOS=0.15E1 INEG=-0.166E1
X_U36         N24207 MID FEMT_OPA1656 NVRF=6
X_U37         ESDN MID FEMT_OPA1656 NVRF=6
X_U4          N25397 N24207 VOS_DRIFT_OPA1656 DC=475.587U POL=1
+  DRIFT=0.3E-06
X_U5          ESDN ESDP VCC VEE ESD_IN_OPA1656
X_U6          N28678 MID N32236 MID N31389 N31737 VCM_CLAMP_OPA1656 
+  GAIN=1
*.MODEL R_NOISELESS RES (T_ABS=-273.15)
*.MODEL R_NOISELESS R (LEVEL=2 TREF=-273.15)
.MODEL R_NOISELESS R noise=0
.ENDS OPA1656
*
.SUBCKT BLOCK_DC_H1_OPA1656 1 2 3 4  
H_H1         3 4 VH_H1 1K
VH_H1         1 2 0V
.ENDS  BLOCK_DC_H1_OPA1656
*
.SUBCKT BLOCK_DC_H2_OPA1656 1 2 3 4  
H_H2         3 4 VH_H2 1
VH_H2         1 2 0V
.ENDS  BLOCK_DC_H2_OPA1656
*
.SUBCKT BLOCK_DC_H3_OPA1656 1 2 3 4  
H_H3         3 4 VH_H3 -1
VH_H3         1 2 0V
.ENDS  BLOCK_DC_H3_OPA1656
*
.SUBCKT BLOCK_DC_S1_OPA1656 1 2 3 4  
*S_S1         3 4 1 2 _S1
GS_S1 3 4 VCR PWL(1) 1 2 0V,1E12 10MV,10M
RS_S1         1 2 1G
*.MODEL         _S1 VSWITCH ROFF=1E12 RON=10M VOFF=0.0V VON=10MV
.ENDS  BLOCK_DC_S1_OPA1656
*
.SUBCKT BLOCK_DC_S2_OPA1656 1 2 3 4  
*S_S2         3 4 1 2 _S2
GS_S1 3 4 VCR PWL(1) 1 2 0V,1E12 10MV,10M
RS_S2         1 2 1G
*.MODEL         _S2 VSWITCH ROFF=1E12 RON=10M VOFF=0.0V VON=10MV
.ENDS  BLOCK_DC_S2_OPA1656
*
.SUBCKT AOL_1_OPA1656 VC+ VC- IOUT+ IOUT- GAIN=1E-4 IPOS=.5 INEG=-.5
G1 IOUT+ IOUT- VC+ VC- GAIN MIN=INEG MAX=IPOS
.ENDS  AOL_1_OPA1656
*
.SUBCKT AOL_2_OPA1656 VC+ VC- IOUT+ IOUT- GAIN=6.5E-1 IPOS=6.16 INEG=-6.16
*G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
G1 IOUT+ IOUT- VC+ VC- GAIN MIN=INEG MAX=IPOS
.ENDS  AOL_2_OPA1656
*
.SUBCKT CLAMP_AMP_HI_OPA1656 VC+ VC- VIN COM VO+ VO- G=10
*GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
*GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
GVO+ COM VO+ CUR = 'V(VIN,COM)>V(VC+,COM) ? (V(VIN,COM)-V(VC+,COM))*G : 0'
GVO- COM VO- CUR = 'V(VIN,COM)<V(VC-,COM) ? (V(VC-,COM)-V(VIN,COM))*G : 0'
.ENDS  CLAMP_AMP_HI_OPA1656
*
.SUBCKT CLAMP_AMP_LO_OPA1656 VC+ VC- VIN COM VO+ VO- G=1
*GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
*GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
GVO+ COM VO+ CUR = 'V(VIN,COM)>V(VC+,COM) ? (V(VIN,COM)-V(VC+,COM))*G : 0'
GVO- COM VO- CUR = 'V(VIN,COM)<V(VC-,COM) ? (V(VC-,COM)-V(VIN,COM))*G : 0'
.ENDS  CLAMP_AMP_LO_OPA1656
*
.SUBCKT CLAWN_OPA1656 VC+ VC- IOUT+ IOUT-
*G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
G1 IOUT+ IOUT- VCR PWL(1) VC+ VC- 
+(0,     2.39E-05)
+(40.33, 1.05E-03)
+(70.92, 1.96E-03)
+(98.15, 2.99E-03)
+(98.82, 6.00E-03)
.ENDS  CLAWN_OPA1656
*
.SUBCKT CLAWP_OPA1656 VC+ VC- IOUT+ IOUT-
*G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
G1 IOUT+ IOUT- VCR PWL(1) VC+ VC- 
+(0,     2.38E-05)
+(28.18, 9.50E-04)
+(56.02, 2.00E-03)
+(68.42, 2.59E-03)
+(75.46, 2.97E-03)
+(86.17, 3.84E-03)
+(87.83, 4.13E-03)
+(89.10, 5.97E-03)
.ENDS  CLAWP_OPA1656
*
.SUBCKT CLAW_SRC_OPA1656 VC+ VC- IOUT+ IOUT- GAIN=1 IPOS=0.15E1 INEG=-0.166E1
*G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
G1 IOUT+ IOUT- VC+ VC- GAIN MIN=INEG MAX=IPOS
.ENDS  CLAW_SRC_OPA1656
*
.SUBCKT CL_SRC_OPA1656 VC+ VC- IOUT+ IOUT- GAIN=1 IPOS=0.3E1 INEG=-0.332E1
*G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
G1 IOUT+ IOUT- VC+ VC- GAIN MIN=INEG MAX=IPOS
.ENDS  CL_SRC_OPA1656
*
.SUBCKT ESD_BB_OPA1656 ESDN ESDP
*.MODEL ESD_SW VSWITCH(RON=50 ROFF=1E12 VON=700E-3 VOFF=0)
*S1 ESDN ESDP ESDN ESDP ESD_SW
*S2 ESDP ESDN ESDP ESDN ESD_SW
GS1 ESDN ESDP VCR PWL(1) ESDN ESDP 0,1E12 0.7V,50
GS2 ESDP ESDN VCR PWL(1) ESDP ESDN 0,1E12 0.7V,50
.ENDS  ESD_BB_OPA1656
*
.SUBCKT ESD_IN_OPA1656 ESDN ESDP VCC VEE
*.MODEL ESD_SW VSWITCH(RON=50 ROFF=1E12 VON=500E-3 VOFF=100E-3)
*S1 ESDN VCC ESDN VCC ESD_SW
*S2 ESDP VCC ESDP VCC ESD_SW
*S3 VEE ESDN VEE ESDN ESD_SW
*S4 VEE ESDP VEE ESDP ESD_SW
GS1 ESDN VCC VCR PWL(1) ESDN VCC 0.1,1E12 0.5V,50
GS2 ESDP VCC VCR PWL(1) ESDP VCC 0.1,1E12 0.5V,50
GS3 VEE ESDN VCR PWL(1) VEE ESDN 0.1,1E12 0.5V,50
GS4 VEE ESDN VCR PWL(1) VEE ESDP 0.1,1E12 0.5V,50
.ENDS  ESD_IN_OPA1656
*
.SUBCKT ESD_OUT_OPA1656 OUT VCC VEE
*.MODEL ESD_SW VSWITCH(RON=50 ROFF=1E12 VON=500E-3 VOFF=100E-3)
*S1 OUT VCC OUT VCC ESD_SW
*S2 VEE OUT VEE OUT ESD_SW
GS1 OUT VCC VCR PWL(1) OUT VCC 0.1,1E12 0.5V,50
GS3 VEE OUT VCR PWL(1) VEE OUT 0.1,1E12 0.5V,50
.ENDS  ESD_OUT_OPA1656
*
.SUBCKT FEMT_OPA1656 1 2 NVRF=6
E1 3 0 5 0 10
R1 5 0 '1.184*PWR(NVRF,2)'
R2 5 0 '1.184*PWR(NVRF,2)'
G1 1 2 3 0 1E-6
.ENDS  FEMT_OPA1656
*
.SUBCKT GR_SRC_OPA1656 VC+ VC- IOUT+ IOUT- GAIN=1 IPOS=11.0104E1 INEG=-11.0104E1
*G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
G1 IOUT+ IOUT- VC+ VC- GAIN MIN=INEG MAX=IPOS
.ENDS  GR_SRC_OPA1656
*
.SUBCKT IQ_SRC_OPA1656 VC+ VC- IOUT+ IOUT- GAIN=1E-3
*G1 IOUT- IOUT+ VALUE={IF( (V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-) )}
G1 IOUT+ IOUT- CUR = 'V(VC+,VC-)<=0 ? 0 : GAIN*V(VC+,VC-)'
.ENDS  IQ_SRC_OPA1656
*
.SUBCKT OL_SENSE_OPA1656 COM SW+ OLN OLP
*GSW+ COM SW+ VALUE = {IF((V(OLN,COM)>10E-3 | V(OLP,COM)>10E-3),1,0)}
GSW+ COM SW+ CUR = 'V(OLN,COM)>10E-3 || V(OLP,COM)>10E-3 ? 1 : 0'
.ENDS  OL_SENSE_OPA1656
*
.SUBCKT SW_OL_OPA1656 SW_OL_OPA1656 MID CAP_L CAP_R
*.MODEL OL_SW VSWITCH(RON=1E-3 ROFF=1E12 VON=900E-3 VOFF=800E-3)
*S1 CAP_L CAP_R SW_OL_OPA1656 MID OL_SW
GS1 CAP_L CAP_R VCR PWL(1) SW_OL_OPA1656 MID 0.8,1E12 0.9V,1E-3
.ENDS  SW_OL_OPA1656
*
.SUBCKT VCM_CLAMP_OPA1656 VIN+ VIN- IOUT- IOUT+ VP+ VP- GAIN=1
*G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
G1 IOUT+ IOUT- VIN+ VIN- GAIN MIN='V(VP-,VIN-)' MAX='V(VP+,VIN-)'
.ENDS  VCM_CLAMP_OPA1656
*
.SUBCKT VNSE_OPA1656 1 2 FLW=10 GLF=0.0565 RNV=9.617
.MODEL DVN D KF='PWR(FLW,0.5)/1E11' IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 GLF
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 RNV
R5 5 0 RNV
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ENDS  VNSE_OPA1656
*
.SUBCKT VOS_DRIFT_OPA1656 VOS+ VOS- DC=475.587U POL=1 DRIFT=0.3E-06
E1 VOS+ VOS- VALUE='DC+POL*DRIFT*(TEMPER-27)'
.ENDS  VOS_DRIFT_OPA1656
*
.SUBCKT ZO_SRC_OPA1656 VC+ VC- IOUT+ IOUT- GAIN=1E2 IPOS=6E5 INEG=-6.5E5
*G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
G1 IOUT+ IOUT- VC+ VC- GAIN MIN=INEG MAX=IPOS
.ENDS  ZO_SRC_OPA1656
*
